US06348474B1
Benzyl 4-benzyloxy-2-chlorobenzoate
Potassium carbonate (1.67 g) and benzyl bromide (1.73 g) were added to a solution of 2-chloro-4-hydroxybenzoic acid (695 mg) in N,N-dimethylformamide (3.5 ml) and the mixture was stirred for 14 hr at room temperature. To the reaction mixture was added 1N hydrochloric acid and the resulting product was extracted three times with ether. The organic layers were combined, washed successively with water, a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was recrystallized from diisopropyl ether/hexane to give the objective compound (1.13 g) as a pale-yellow powder.

reactant | Potassium carbonate | 1.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.73 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-chloro-4-hydroxybenzoic acid | 695 mg | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | Benzyl 4-benzyloxy-2-chlorobenzoate | 1.13 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)Cl | C21H17ClO3
